US09108939B2
A: 2-(4-((4-((4-Amino-3-fluorophenyl)(hydroxy)methyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
2-(4-((4-(4-Amino-3-fluorobenzylidene)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (1.384 mmol, 0.64 g) was cooled to 0° C. and 1M diborane solution in tetrahydrofuran (5.54 mmol, 5.54 mL) added dropwise. The mixture was allowed to warm to room temperature and stirred overnight. The mixture was cooled to 0° C. and ethanol slowly added. Sodium hydroxide (8.30 mmol, 0.332 g) in water (20 mL) was then added slowly with stirring, followed by hydrogen peroxide (24.91 mmol, 2.421 g). The mixture was stirred at room temperature for 16 hours. The reaction mixture was poured into an aqueous solution of ammonium chloride (50 mL) and the mixture extracted with dichloromethane (3×100 mL). The combined organic phase was then washed with water (50 mL) and brine (50 mL) and the organic phase dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting with 2% to 10% methanol/dichloromethane) to afford the title compound (60 mg).

reactant | 2-(4-((4-(4-Amino-3-fluorobenzylidene)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 1.384 mmol, 0.64 g | NC1=C(C=C(C=C2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)F | C22H21F7N2O
reactant | diborane | 1M | B#B | B2
reactant | tetrahydrofuran | 5.54 mmol, 5.54 mL | O1CCCC1 | C4H8O
reactant | Sodium hydroxide | 8.30 mmol, 0.332 g | [OH-].[Na+]
reactant | hydrogen peroxide | 24.91 mmol, 2.421 g | OO | H2O2
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | water | 20 mL | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-((4-((4-Amino-3-fluorophenyl)(hydroxy)methyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 60 mg | NC1=C(C=C(C=C1)C(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)O)F | C22H23F7N2O2
